US09193693B2
Step 2. 3-Morpholino-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-morpholino-2-phenylquinoxaline-6-carboxylate (136.4 mg, 0.39 mmol, 1.00 equiv) in methanol (12 mL), a solution of sodium hydroxide (78.2 mg, 1.96 mmol, 5.00 equiv) in water (2 mL). The resulting solution was stirred overnight at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting mixture was concentrated under vacuum. The resulting mixture was sent for prep-HPLC. This resulted in 56 mg (41%) of 3-morpholino-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-morpholino-2-phenylquinoxaline-6-carboxylate | 0.39 mmol, 136.4 mg, 1.00 equiv | O1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C20H19N3O3
reactant | sodium hydroxide | 1.96 mmol, 78.2 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | methanol | 12 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-Morpholino-2-phenylquinoxaline-6-carboxylic acid | O1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C19H17N3O3
